US07423012B2
To a solution of cis-4-aminocyclohexane carboxylic acid (9.90 g, 69.0 mmol) in water (120 mL) and dioxane (120 mL) was added KOH (3.73 g, 56 mmol) followed by di-tert-butyl dicarbonate (15.3 g, 70.0 mmol). The reaction mixture was stirred at room temperature overnight. Water was added and the product was extracted with CHCl3. The combined organic extracts were washed with water, dried and concentrated under reduced pressure to give 4-[N-(tert-butoxycarbonyl)amino]-cyclohexane carboxylic acid (14.1 g, 84%).

reactant | cis-4-aminocyclohexane carboxylic acid | 69.0 mmol, 9.90 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | KOH | 56 mmol, 3.73 g | [OH-].[K+]
reactant | di-tert-butyl dicarbonate | 70.0 mmol, 15.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 120 mL | O | H2O
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 4-[N-(tert-butoxycarbonyl)amino]-cyclohexane carboxylic acid | 14.1 g, 84% | C(C)(C)(C)OC(=O)NC1CCC(CC1)C(=O)O | C12H21NO4
